US09023858B2
A) methyl 6-chloro-2-[(4-methoxybenzyl)amino]pyridine-3-carboxylate
A mixture of methyl 2,6-dichloropyridine-3-carboxylate (2.06 g), sodium hydrogen carbonate (1.26 g), 4-methoxybenzylamine (1.50 ml), copper(I) iodide (190 mg) and N,N-dimethylformamide (20 ml) was heated to 80° C., and the mixture was stirred for 1 hr and 30 min. The reaction mixture was concentrated under reduced pressure, the obtained residue was diluted with ethyl acetate (150 ml), and the insoluble solid was removed by filtration. To the filtrate was 28% aqueous ammonia (5 ml), and the mixture was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained yellow oil residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.58 g).

reactant | methyl 2,6-dichloropyridine-3-carboxylate | 2.06 g | ClC1=NC(=CC=C1C(=O)OC)Cl | C7H5Cl2NO2
reactant | sodium hydrogen carbonate | 1.26 g | C(O)([O-])=O.[Na+]
reactant | 4-methoxybenzylamine | 1.50 ml | COC1=CC=C(CN)C=C1 | C8H11NO
catalyst | copper(I) iodide | 190 mg | [Cu]I
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 6-chloro-2-[(4-methoxybenzyl)amino]pyridine-3-carboxylate | 1.58 g | ClC1=CC=C(C(=N1)NCC1=CC=C(C=C1)OC)C(=O)OC | C15H15ClN2O3
